### PR TITLE
[Merged by Bors] - feat port: Data.Nat.Set

### PR DESCRIPTION
**Pull request by ChrisHughes24**
cf9386b56953fb40904843af98b7a80757bbe7f9

Easy

### CODE REVIEW

File: Mathlib/Data/Nat/Set.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+  induction' n with n ihn
+  · rfl
+  · dsimp at ihn⊢
+    rw [ihn]
+#align nat.range_rec Nat.range_rec
+
+theorem range_cases_on {α : Type _} (x : α) (f : ℕ → α) :
+    (Set.range fun n => Nat.casesOn n x f : Set α) = {x} ∪ Set.range f :=
+  (range_of_succ _).symm
+#align nat.range_cases_on Nat.range_cases_on
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Set.lean:51]:
```suggestion
theorem range_casesOn {α : Type _} (x : α) (f : ℕ → α) :
    (Set.range fun n => Nat.casesOn n x f : Set α) = {x} ∪ Set.range f :=
  (range_of_succ _).symm
#align nat.range_cases_on Nat.range_casesOn
```

**Review by Ruben-VandeVelde — APPROVED** [review]
